US06476045B2
(E)-1-{3-[6-Methyl-2-(4-methylphenyl)imidazo[1,2-a]pyridine-3-yl]-1-oxo-2-propenyl}-4-(2-methoxyphenyl)piperazine
Prepared from (E)-ethyl 3-[6-methyl-2-(4-methylphenyl)-imidazo[1,2-a]pyridin-3-yl]-2-propenoate (Description 23) and 1-(2-methoxyphenyl)piperazine according to the method of Example 1. 1H NMR (360 MHz, CDCl3) δ 8.15 (1H, d, J 1.5 Hz), 8.01 (1H, d, J 15.5 Hz), 7.66 (2H, d, J 8.2 Hz), 7.59 (1H, d, J 9.1 Hz), 7.27 (2H, d, J 8.2 Hz), 7.15 (1H, dd, J 9.1, 1.5 Hz), 7.04 (1H, m), 6.92 (3H, m), 6.80 (1H, d, J 15.5 Hz), 3.91 (2H, br s), 3.89 (3H, s), 3.60 (2H, br s), 3.06 (4H, br s), and 2.40 (6H, s). m/z (ES+) 467 (M+1).

reactant | (E)-ethyl 3-[6-methyl-2-(4-methylphenyl)-imidazo[1,2-a]pyridin-3-yl]-2-propenoate | CC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)C)/C=C/C(=O)OCC | C20H20N2O2
reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | (E)-1-{3-[6-Methyl-2-(4-methylphenyl)imidazo[1,2-a]pyridine-3-yl]-1-oxo-2-propenyl}-4-(2-methoxyphenyl)piperazine | CC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)C)/C=C/C(=O)N2CCN(CC2)C2=C(C=CC=C2)OC | C29H30N4O2
